US07470664B2
Step 1: 2-Benzyl-4-bromo-7-methoxyisoindoline
To a solution of methyl 1-bromo-2,3-bis(bromomethyl)-4-methoxybenzene (prepared as described in J. Org. Chem. 1992, 57, 6374, from commercially available 1-bromo-4-methoxy-2,3-dimethylbenzene) in CH3CN (0.1 M) were added 2.5 eq of KHCO3 and the mixture heated at 60° C. Then 1 eq. of benzylamine in CH3CN (0.9 M) was added within 15 minutes and the mixture was heated to reflux for 2 h. The reaction mixture was allowed to cool, filtered over celite and concentrated in vacuo. The crude material was purified by flash chromatography on silica gel (5% EtOAc in petroleum ether, then 10%) to afford the title compound (55%). 1H NMR (300 MHz, CDCl3, ppm) δ 3.77 (s, 3H), 3.92 (s, 2H), 3.98 (s, 2H), 4.01 (s, 2H), 6.60 (d, J 8.6, 1H), and 7.22-7.46 (m, 6H). MS (ES+) m/z 318, 320 (M+H)+.

reactant | methyl 1-bromo-2,3-bis(bromomethyl)-4-methoxybenzene | CC=1C(=C(C(=C(C1)Br)CBr)CBr)OC | C10H11Br3O
reactant | 1-bromo-4-methoxy-2,3-dimethylbenzene | BrC1=C(C(=C(C=C1)OC)C)C | C9H11BrO
reactant | benzylamine | 1 eq. | C(C1=CC=CC=C1)N | C7H9N
solvent | CH3CN | 0.1 M | CC#N | C2H3N
solvent | CH3CN | 0.9 M | CC#N | C2H3N
product | 2-Benzyl-4-bromo-7-methoxyisoindoline | 55% | C(C1=CC=CC=C1)N1CC2=C(C=CC(=C2C1)Br)OC | C16H16BrNO
